US06706923B2
1A. 1-Allyloxy-3-dimethylamino-2-propanol
A charge of 112.7 g (1.00 mol, 40%) dimethylamine is made to a 500 ml three-necked, round-bottomed flask. The amine is heated to 40° C. with stirring while 114.1 g (1.00 mol) allyl glycidyl ether is added over 2.5 hours while keeping the temperature below 50° C. After 3.5 hours at 50° C., GC analysis on a 30 M×0.53 mm SPB-5 polysiloxane column shows a single peak as 98% of the desired product. A viscous oil is obtained in quantitative yield. Analysis by 1H NMR (500 MHz, CDCl3) gives the following results: δ=2.61 (6H, s, —N(CH3)2), 2.62 and 2.71 (2H, m, —CH(OH)CH2N(CH3)2), 3.40 and 3.51 (2H, dd, —OCH2CH(OH)—), 4.04 (1H, bm, —CH2CH(OH)CH2—), 4.36 (2H, m, CH2═CHCH2—), 5.13 (1H, dd, CH2═CH—, cis isomer), 5.22 (1H, dd, CH2═CH—, trans isomer), 5.80 (1H, m, CH2═CH—). This data supports the following structure:

reactant | dimethylamine | 1.00 mol, 112.7 g | CNC | C2H7N
reactant | allyl glycidyl ether | 1.00 mol, 114.1 g | C(C1CO1)OCC=C | C6H10O2
reactant | polysiloxane | [SiH2](O[*:2])[*:1]
product | 1-Allyloxy-3-dimethylamino-2-propanol | 98% | C(C=C)OCC(CN(C)C)O | C8H17NO2
